US04281188
4.2 g (0.015 M) of 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one are suspended in 60 ml of absolute methylene chloride, treated with 2.1 g of powdered potassium carbonate and 1.6 ml of dimethylcarbamoyl chloride and stirred at 20° C. for 14 days. The mixture is then poured on to a mixture of ice and water, extracted with methylene chloride and the organic phase is washed 2-3 times with water, dried with sodium sulphate, filtered and concentrated. The residue is purified on a 200 g silica gel column using ethyl acetate as the eluting agent and crystallised from ethanol/petroleum ether. There is obtained 3-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-1,1-dimethylurea which crystallises with 0.5 mol of ethanol and melts at 97° C. with decomposition.

reactant | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.015 M, 4.2 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C16H14FN3O
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylcarbamoyl chloride | 1.6 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | water | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-1,1-dimethylurea | FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)NC(N(C)C)=O)C)=O | C19H19FN4O2
